US04146643
(b) (S)-3-ethyl-3-formyl-1-[2-(5-fluoro-indol-3-yl)-ethyl]-2-piperidone
39.05 g of (S)-3-ethyl-3-diethoxymethyl-1-[2-(5-fluoro-indol-3-yl)-ethyl]-2-piperidone are mixed with 80 cc of 99% acetic acid and 20 cc of water. The mixture is heated to the boil for half an hour in an atmosphere of nitrogen. After cooling, the solvent is removed by evaporation; the oily residue is subsequently taken up twice in 50 cc amounts of toluene and again concentrated by evaporation in order to remove most of the water and acetic acid. After crystallization from ethyl acetate/hexane (1:2) at 0°, brownish crystals are obtained. M.P. 116°, [α]D20 = -31.5° (1%, CHCl3).

reactant | (S)-3-ethyl-3-diethoxymethyl-1-[2-(5-fluoro-indol-3-yl)-ethyl]-2-piperidone | 39.05 g | C(C)[C@@]1(C(N(CCC1)CCC1=CNC2=CC=C(C=C12)F)=O)C(OCC)OCC | C22H31FN2O3
reactant | acetic acid | 80 cc | C(C)(=O)O | C2H4O2
reactant | water | 20 cc | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-3-ethyl-3-formyl-1-[2-(5-fluoro-indol-3-yl)-ethyl]-2-piperidone | C(C)[C@@]1(C(N(CCC1)CCC1=CNC2=CC=C(C=C12)F)=O)C=O | C18H21FN2O2
